data/mechanism_extracts/JACS/10.1021_ja0172215.json
{"doi": "10.1021_ja0172215", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical aziridination of olefins using N-aminophthalimide as nitrene precursor under metal-free anodic oxidation conditions", "mechanism_family": ["nitrene", "direct_SET", "radical_anodic"], "electrochemical_role": "Anodic oxidation of N-aminophthalimide to a nitrogen-centered species that transfers to olefin; protons reduced at platinum cathode to H2", "key_intermediates": [{"name": "N-aminophthalimide radical/oxidized species (formal nitrene precursor)", "smiles": "O=C1N(N)C(=O)c2ccccc12", "role": "reactive"}, {"name": "phthalimido-nitrene (formal nitrene transferred to olefin)", "smiles": null, "role": "transient"}, {"name": "cyclohexene substrate", "smiles": "C1CCC=CC1", "role": "reactive"}, {"name": "N-cyclohexyl phthalimide aziridine product", "smiles": null, "role": "off_pathway"}], "electron_flow": "At +1.80 V (vs Ag wire) on platinum anode, N-aminophthalimide undergoes one-electron oxidation (CV shows anodic peaks at +1.35 and +1.68 V) generating an N-centered oxidized intermediate that, with assistance of NEt3/AcOH, transfers a nitrene-equivalent to the olefin; protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of N-aminophthalimide", "smiles": null, "purpose": "redox_probe", "observation": "Two irreversible one-electron oxidations at +1.35 V and +1.68 V vs Ag/AgCl"}, {"name": "cyclic voltammetry of cyclohexene", "smiles": "C1CCC=CC1", "purpose": "redox_probe", "observation": "Only -1.0 μA anodic current at +1.68 V vs -152 μA for N-aminophthalimide, indicating olefin oxidation is kinetically disfavored (overpotential)"}, {"name": "cyclic voltammetry of Pb(OAc)2", "smiles": null, "purpose": "redox_probe", "observation": "Pb(II)/Pb(IV) oxidation at +1.60 V vs Ag/AgCl, enabling catalytic Pb variant as control"}], "evidence_types_used": ["cyclic_voltammetry", "stoichiometric_intermediate"], "evidence_strength": "weak", "notes": "A related Pb(OAc)4-catalyzed (10 mol%) electrochemical variant was demonstrated, where Pb(II) is reoxidized to Pb(IV) at +1.60 V and acts as mediator; the metal-free pathway is favored as the main contribution and proceeds at slightly higher potential (+1.80 V) where direct N-aminophthalimide oxidation dominates over olefin background oxidation. Exact nature of the transferred nitrogen species (free singlet/triplet nitrene vs metal-free aminyl radical) is not definitively assigned."}
